US08124629B2
A solution of [6-fluoro-3-methyl-4-(4-methyl-benzyl)-naphthalen-2-yl]-acetic acid methyl ester (140.8 mg, 0.419 mmol) in tetrahydrofuran (14 mL) was treated with a warm solution of lithium hydroxide monohydrate (175.8 mg, 4.19 mmol) in water (3.5 mL). The reaction mixture was stirred at room temperature for 20 hours, diluted with water, acidified with aqueous 3.0 N HCl and extracted with ethyl acetate. The ethyl acetate layers were combined, washed with brine, dried (MgSO4), filtered and concentrated. Purification by reverse phase HPLC gave 81.7 mg (60%) of [6-fluoro-3-methyl-4-(4-methyl-benzyl)-naphthalen-2-yl]-acetic acid as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 12.43 (br. s, 1 H), 7.91 (dd, J=8.7, 6.3 Hz, 1 H), 7.74 (s, 1 H), 7.62 (dd, J=12.1, 1.8 Hz, 1 H), 7.33 (td, J=8.7, 1.8 Hz, 1 H), 7.03 (d, J=7.8 Hz, 2 H), 6.92 (d, J=7.8 Hz, 2 H), 4.40 (s, 2H), 3.82 (s, 2 H), 2.32 (s, 3 H), 2.21 (s, 3 H). HRMS (ES−) cald. for C21H19FO2 [(M−H)−] 321.1296, obsd. 321.1294.

reactant | [6-fluoro-3-methyl-4-(4-methyl-benzyl)-naphthalen-2-yl]-acetic acid methyl ester | 0.419 mmol, 140.8 mg | COC(CC1=CC2=CC=C(C=C2C(=C1C)CC1=CC=C(C=C1)C)F)=O | C22H21FO2
reactant | lithium hydroxide monohydrate | 4.19 mmol, 175.8 mg | O.[OH-].[Li+]
reactant | HCl | 3.0 N | Cl | ClH
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | water | 3.5 mL | O | H2O
product | [6-fluoro-3-methyl-4-(4-methyl-benzyl)-naphthalen-2-yl]-acetic acid | 81.7 mg, 60% | FC=1C=C2C(=C(C(=CC2=CC1)CC(=O)O)C)CC1=CC=C(C=C1)C | C21H19FO2
